US07968538B2
(1-(5-Fluoro-2-methoxy-3-methylphenyl)ethyl)-2-(methylsulfonyl)-5-(piperazin-1-yl)benzenamine (60 mg, 0.14 mmol) was dissolved in dichloromethane (1.5 mL). The solution was cooled in a bath with dry ice and methanol. Hydrochloric acid (1.0 mL, 2.0 M in ether) was added slowly. The mixture was warmed to room temperature. The precipitate was filtered and washed with diethyl ether gave (1-(5-Fluoro-2-methoxy-3-methylphenyl)ethyl)-2-(methylsulfonyl)-5-(piperazin-1-yl)benzenamine hydrochloride salt as a white solid (52 mg, 81%): 1H NMR (400 MHz, CD3OD): 1H NMR (400 MHz, CD3OD): δ 7.71 (d, 1H), 6.94 (dd, 1H), 6.85 (dd, 1H), 6.59 (d, 1H), 6.39 (dd, 1H), 4.95 (bs, 3H), 4.88 (m, 1H), 3.79 (s, 3H), 3.34-3.15 (m, 4H), 3.15 (s, 3H), 2.98 (m, 4H), 2.32 (s, 3H), 1.49 (d, 3H). MS (ESI) m/z: Calculated: 421.18; Observed: 422.2 (M+H+); (C21H28FN3O3S.HCl).

reactant | (1-(5-Fluoro-2-methoxy-3-methylphenyl)ethyl)-2-(methylsulfonyl)-5-(piperazin-1-yl)benzenamine | 0.14 mmol, 60 mg | FC=1C=C(C(=C(C1)C(C)C=1C(=C(C=C(C1)N1CCNCC1)N)S(=O)(=O)C)OC)C | C21H28FN3O3S
reactant | dry ice | C(=O)=O | CO2
reactant | methanol | CO | CH4O
reactant | Hydrochloric acid | 2.0 M, 1.0 mL | Cl | ClH
solvent | dichloromethane | 1.5 mL | ClCCl | CH2Cl2
product | (1-(5-Fluoro-2-methoxy-3-methylphenyl)ethyl)-2-(methylsulfonyl)-5-(piperazin-1-yl)benzenamine hydrochloride salt | 52 mg, 81% | Cl.FC=1C=C(C(=C(C1)C(C)C=1C(=C(C=C(C1)N1CCNCC1)N)S(=O)(=O)C)OC)C | InChI=1S/C21H28FN3O3S.ClH/c1-13-9-15(22)10-17(20(13)28-3)14(2)18-11-16(25-7-5-24-6-8-25)12-19(23)21(18)29(4,26)27;/h9-12,14,24H,5-8,23H2,1-4H3;1H
